* C:\Users\kutea\OneDrive\Documents\LTspice\Common Source (CS) NMOS Amplifier.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N001 N002 8.9k
VGS N003 0 SINE(0.425 10m 1k) AC 1 Rser=10k Cpar=1p
VDD N001 0 1.8
M2 N002 N003 0 NC_01 NMOS l=0.18u w=10u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kutea\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 20 1 100meg
.backanno
.end
